US07585886B2
A 270 mg portion of methyl 6-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-6-oxohexanoate was dissolved in 3 ml of methanol, mixed with 3 ml of 1 M sodium hydroxide aqueous solution and stirred at room temperature for 4Hours. The reaction solution was concentrated under a reduced pressure, and 1 M hydrochloric acid was added to the residue until it became pH 3.0. After extraction with chloroform and subsequent washing with saturated brine, the organic layer was dried with anhydrous sodium sulfate and concentrated under a reduced pressure. The thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol) to obtain 237 mg of 6-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-6-oxohexanoic acid as a colorless solid. FP: 559.

reactant | methyl 6-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-6-oxohexanoate | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(CCCCC(=O)OC)=O | C35H44N2O5
reactant | sodium hydroxide | 1 M, 3 ml | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | 6-[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-6-oxohexanoic acid | 237 mg | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(CCCCC(=O)O)=O | C34H42N2O5
